US08138179B2
d2) 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-7,8-dihydronaphthalene-2-carbonitrile
50.0 mmol of 6-cyano-3,4-dihydronaphthalen-1-yl trifluoromethanesulphonate are added to a mixture of 1.50 mmol of bis(triphenylphosphine)palladium(II) chloride, 3.00 mmol of triphenylphosphine, 75.0 mmol of potassium phenolate [100-67-4] and 89.8 mmol of bis(pinacolato)diboron [73183-34-3] in 210 ml of toluene under argon. The reaction mixture is stirred at 50° C. for 4 hours and then cooled to room temperature and poured into ice-cold 1M sodium hydroxide solution. The mixture is extracted with tert-butyl methyl ether, and the combined organic phases are washed with brine, dried with sodium sulphate and evaporated. The title compound is obtained as a white solid from the residue by flash chromatography (SiO2 60F). Rf=0.19 (ethyl acetate-heptane 1:10); Rt=10.17 (gradient II).

reactant | 6-cyano-3,4-dihydronaphthalen-1-yl trifluoromethanesulphonate | 50.0 mmol | FC(S(=O)(=O)OC1=CCCC2=CC(=CC=C12)C#N)(F)F | C12H8F3NO3S
reactant | triphenylphosphine | 3.00 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium phenolate | 75.0 mmol | C1(=CC=CC=C1)[O-].[K+]
reactant | bis(pinacolato)diboron | 89.8 mmol | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | toluene | 210 ml | C1(=CC=CC=C1)C | C7H8
catalyst | bis(triphenylphosphine)palladium(II) chloride | 1.50 mmol | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-7,8-dihydronaphthalene-2-carbonitrile | CC1(OB(OC1(C)C)C=1C=2C=CC(=CC2CCC1)C#N)C | C17H20BNO2
